US03931218
A solution of 13 grams of ψ-acid chloride of 0-(p-chlorobenzoyl)benzoic acid in 30 ml. of acetone was added dropwise to a stirred solution of 14 grams of N-[2-(ethylamino)ethyl]-p-toluenesulfonamide hydrochloride in 100 ml. of pyridine. The solution was refluxed for 1.75 hours then the solvent was removed in vacuo. The residue dissolved in ethyl acetate and extracted successively with water, and saturated sodium carbonate solution. After drying over magnesium sulfate, the ethyl acetate was removed in vacuo. The solid was slurried with ethyl acetate and separated. On recrystallization from ethyl acetate there was obtained 2-(p-chlorobenzoyl)-N-[2-(p-toluenesulfonamido)ethyl]-N-ethylbenzamide, m.p. 145°-147°C.

reactant | 0-(p-chlorobenzoyl)benzoic acid | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
reactant | acetone | CC(=O)C | C3H6O
reactant | N-[2-(ethylamino)ethyl]-p-toluenesulfonamide hydrochloride | 14 grams | Cl.C(C)NCCNS(=O)(=O)C1=CC=C(C=C1)C
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(p-chlorobenzoyl)-N-[2-(p-toluenesulfonamido)ethyl]-N-ethylbenzamide | ClC1=CC=C(C(=O)C2=C(C(=O)N(CC)CCNS(=O)(=O)C3=CC=C(C=C3)C)C=CC=C2)C=C1 | C25H25ClN2O4S
